US08389511B2
1-tert-Butyl 3-methyl (3S,4S)-4-phenylpiperidine-1,3-dicarboxylate
To a solution of (3S,4S)-1-(tert-butoxycarbonyl)-4-phenylpiperidine-3-carboxylic acid (1.12 g) in DMF (12 ml) were added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.41 g), N,N-dimethylaminopyridine (992 mg), triethylamine (1.02 ml) and methanol (595 μl), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=5/1) to give the title compound (1.00 g).

reactant | (3S,4S)-1-(tert-butoxycarbonyl)-4-phenylpiperidine-3-carboxylic acid | 1.12 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC=CC=C1)C(=O)O | C17H23NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.41 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.02 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | methanol | 595 μl | CO | CH4O
product | 1-tert-Butyl 3-methyl (3S,4S)-4-phenylpiperidine-1,3-dicarboxylate | 1.00 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H25NO4
